US05817599
Synthesis of docosanohydrazide
17.0 Grams of docosanoic acid, 1.0 g of p-toluenesulfonic acid monohydrate and 200 ml of n-propanol were charged in a flask equipped with a stirrer, a condenser and a calcium chloride drying tube and refluxed with heating for 4 hours. To the resulting solution was added 12.5 g of hydrazine monohydrate, followed by continuing the refluxing with heating for 20 hours. The reaction mixture was cooled to room temperature and the precipitated crystal was filtered off under reduced pressure and washed with distilled water. The crystal was recrystallized from 2-propanol to obtain 14.2 g of the desired product. m.p. 117° C.

reactant | docosanoic acid | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O | C22H44O2
reactant | p-toluenesulfonic acid monohydrate | 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | hydrazine monohydrate | 12.5 g | O.NN
solvent | n-propanol | 200 ml | C(CC)O | C3H8O
product | docosanohydrazide | 14.2 g | C(CCCCCCCCCCCCCCCCCCCCC)(=O)NN | C22H46N2O
